US07829665B2
(2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-14a-(cyclopropylsulfonylcarbamoyl)-5,16-dioxo-2,3,5,6,7,9,10,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(i)pyrrolo[1,2-e][1,5,8]oxadiazacyclopentadecin-2-yl 4-fluoroisoindoline-2-carboxylate (0.028 g, 0.038 mmol) and Rh/Al (5%) (0.0079 g, 0.0038 mmol) in Ethyl acetate (5 mL) was charged with 1 atmosphere of hydrogen and stirred for 16 hrs. Water (3 mL) and saturated potassium hydrogen sulfate (3 mL) was added and stirred for 10 minutes. The organic phase was separated and aqueous phase extracted with ethyl acetate (10 mL), washed with brine and dried over sodium sulfate. After removal of solvent, the residue was purified by chromatography (Hexane:Ethyl acetate=1:4) to give (2R,6S,13aR,14aR,16aS)-6-(tert-butoxycarbonylamino)-14a-(cyclopropylsulfonylcarbamoyl)-5,16-dioxohexadecahydro-1H-cyclopropa(i)pyrrolo[1,2-e][1,5,8]oxadiazacyclopentadecin-2-yl 4-fluoroisoindoline-2-carboxylate as white solid (0.015 g, 53%). MS: Calcd.: 735; Found: [M+H]+ 736. 1H NMR (400 MHz, CD2Cl2) δ9.65 (s, 1H), 7.22-7.28 (m, 2H), 6.96-7.08 (m, 2H), 5.55 (m, 1H), 5.39 (m, 1H), 4.74 & 4.69 (s, 4H), 4.54 (m, 1H), 3.97 (m, 1H), 3.84 (m, 1H), 3.77 (m, 1H), 3.67 (m, 1H), 3.55 (m, 1H), 3.47 (m, 1H), 2.92 (m, 1H), 2.65 (m, 1H), 2.35 (m, 1H), 1.06-1.68 (m, 25H).

reactant | (2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-14a-(cyclopropylsulfonylcarbamoyl)-5,16-dioxo-2,3,5,6,7,9,10,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(i)pyrrolo[1,2-e][1,5,8]oxadiazacyclopentadecin-2-yl 4-fluoroisoindoline-2-carboxylate | 0.038 mmol, 0.028 g | FC1=C2CN(CC2=CC=C1)C(=O)O[C@@H]1C[C@@H]2N(C([C@H](COCCC\C=C/[C@H]3[C@](NC2=O)(C3)C(NS(=O)(=O)C3CC3)=O)NC(=O)OC(C)(C)C)=O)C1 | C34H44FN5O10S
reactant | hydrogen | [H][H] | H2
reactant | Water | 3 mL | O | H2O
reactant | potassium hydrogen sulfate | 3 mL | S(=O)(=O)(O)[O-].[K+]
solvent | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | (2R,6S,13aR,14aR,16aS)-6-(tert-butoxycarbonylamino)-14a-(cyclopropylsulfonylcarbamoyl)-5,16-dioxohexadecahydro-1H-cyclopropa(i)pyrrolo[1,2-e][1,5,8]oxadiazacyclopentadecin-2-yl 4-fluoroisoindoline-2-carboxylate | 0.015 g, 53% | FC1=C2CN(CC2=CC=C1)C(=O)O[C@@H]1C[C@@H]2N(C([C@H](COCCCCC[C@H]3[C@](NC2=O)(C3)C(NS(=O)(=O)C3CC3)=O)NC(=O)OC(C)(C)C)=O)C1 | C34H46FN5O10S
